US07718652B2
6-fluoro-1-(2-fluorophenyl)-3-{2-[(2S)-oxiran-2-yl]ethyl}-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.12 g, 0.29 mmol) was dissolved in an 8 M solution of methylamine in ethanol (3 mL, 24 mmol) and was heated to 100° C. for 192 sec. in the microwave. The reaction mixture was evaporated and the residue purified by flash chromatography (SiO2, 0-5% 7 M NH3-methanol/dichloromethane). The purified free-base was dissolved in dichloromethane (3 mL) and treated with hydrogen chloride (1.0 mL of a 2 M solution in ethyl ether), resulting in a white precipitate that was evaporated and dried under vacuum to provide (2S)-4-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-1-(methylamino)butan-2-ol (0.10 g. 83%) as a white solid.

reactant | 6-fluoro-1-(2-fluorophenyl)-3-{2-[(2S)-oxiran-2-yl]ethyl}-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.29 mmol, 0.12 g | FC=1C=CC2=C(CN(S(N2C2=C(C=CC=C2)F)(=O)=O)CC[C@@H]2OC2)C1 | C17H16F2N2O3S
reactant | ethanol | 24 mmol, 3 mL | C(C)O | C2H6O
reactant | methylamine | CN | CH5N
product | (2S)-4-[6-fluoro-1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]-1-(methylamino)butan-2-ol | 0.10 g, 83% | FC=1C=CC2=C(CN(S(N2C2=C(C=CC=C2)F)(=O)=O)CC[C@@H](CNC)O)C1 | C18H21F2N3O3S
